US08937083B2
Preparation of 3-chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine hydrochloride
Into a 500 mL three-necked round bottom flask equipped with a magnetic stir bar was added a solution of tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(ethyl)carbamate (21 g, 65.1 mmol) in 1.4-dioxane (35 mL). This pale yellow solution was placed into an ice bath and cooled to 1° C. A solution of 4M HCl in dioxane (65 mL, 260 mmol) was added in one portion. After stirring for 20 minutes, the ice bath was removed and the suspension was stirred further at ambient temperature for 16 hours. The reaction was diluted with 200 mL of ethyl ether and the solid was filtered and washed with ether and placed in a vacuum oven at 40° C. for 18 hours. The title compound was isolated as a pale yellow solid (18.2 g, 95%): 1H NMR (400 MHz, MeOD) δ 9.52 (d, J=2.5 Hz, 1H), 9.17 (s, 1H), 9.14 (ddd, J=8.7, 2.5, 1.1 Hz, 1H), 8.93 (ddd, J=5.7, 1.1, 0.6 Hz, 1H), 8.31 (ddd, J=8.7, 5.7, 0.5 Hz, 1H), 3.58 (q, J=7.3 Hz, 2H), 1.48 (t, J=7.3 Hz, 3H); ESIMS m/z 223 ([M+H]+).

reactant | tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(ethyl)carbamate | 65.1 mmol, 21 g | ClC1=NN(C=C1N(C(OC(C)(C)C)=O)CC)C=1C=NC=CC1 | C15H19ClN4O2
reactant | HCl | 4M | Cl | ClH
solvent | 1.4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 260 mmol, 65 mL | O1CCOCC1 | C4H8O2
product | 3-chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine hydrochloride | Cl.ClC1=NN(C=C1NCC)C=1C=NC=CC1 | InChI=1S/C10H11ClN4.ClH/c1-2-13-9-7-15(14-10(9)11)8-4-3-5-12-6-8;/h3-7,13H,2H2,1H3;1H
